US07531532B2
Ethyl 4-(3-fluoro-4-nitrophenoxy)pyridine-2-carboxylate
After adding 3-fluoro-4-nitrophenol (24.7 g) and chlorobenzene (7.0 ml) to ethyl 4-chloropyridine-2-carboxylate (19.4 g), the mixture was heated and stirred for 4 hours at 120° C. under a nitrogen atmosphere. The reaction mixture was then cooled to room temperature. Ethyl acetate (400 ml) and saturated aqueous sodium carbonate (400 ml) were added thereto and the mixture was stirred for 27 hours at room temperature. The stirring was paused and the aqueous layer was separated. Saturated aqueous sodium carbonate was again added to the organic layer, and the mixture was stirred at room temperature for 2 days. The stirring was again paused and the aqueous layer was separated. The aqueous layer was then extracted with ethyl acetate (300 ml). The organic layers were combined and washed with brine. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=2:1 to 1:1, then ethyl acetate). Fractions containing the target compound were concentrated to provide the title compound (12.9 g, 40.2%) as a brown oil.

reactant | 3-fluoro-4-nitrophenol | 24.7 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | chlorobenzene | 7.0 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | ethyl 4-chloropyridine-2-carboxylate | 19.4 g | ClC1=CC(=NC=C1)C(=O)OCC | C8H8ClNO2
reactant | sodium carbonate | 400 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | Ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 4-(3-fluoro-4-nitrophenoxy)pyridine-2-carboxylate | 12.9 g, 40.2% | FC=1C=C(OC2=CC(=NC=C2)C(=O)OCC)C=CC1[N+](=O)[O-] | C14H11FN2O5
